US09216980B2
Step 1: 6′-Chloro-2-fluoro-5-(4-piperidin-1-ylmethyl-phenyl)-5′-vinyl-[3,4′]bipyridinyl-3′-ylamine
A mixture of 5′-bromo-6′-chloro-2-fluoro-5-(4-piperidin-1-ylmethyl-phenyl)-[3,4]bipyridinyl-3′-ylamine (93 mg, 0.19 mmol), vinyltributyl tin (63 μL, 0.21 mmol), tetrakis(triphenylphosphine)palladium(0) (11 mg, 5 mol %) and lithium chloride (25 mg, 0.59 mmol) in 1,4-dioxane (1.0 mL) was heated under reflux for 3.5 h. The reaction mixture was allowed to cool to ambient temperature, diluted with water (10 mL) and extracted with DCM (3×20 mL). The combined organic layer was concentrated in vacuo and the resultant residue purified by flash chromatography (silica, 4 g column, ISCO, 0-10% MeOH in DCM) to afford the title compound as a beige powder (77 mg, 82%). 1H NMR (CDCl3, 400 MHz): 8.50 (dd, J=2.5, 1.0 Hz, 1H), 7.94 (s, 1H), 7.88 (dd, J=8.5, 2.5 Hz, 1H), 7.54-7.47 (m, 4H), 6.53 (dd, J=18.0, 11.5 Hz, 1H), 5.37 (dd, J=11.5, 1.0 Hz, 1H), 5.11 (dd, J=18.0, 1.0 Hz, 1H), 3.60 (s, 2H), 3.55-3.50 (m, 2H), 2.48-2.35 (m, 4H), 1.68-1.58 (m, 4H), 1.50-1.44 (m, 2H). LCMS (Method B): RT=2.32 min, M+H+=423/425.

reactant | 5′-bromo-6′-chloro-2-fluoro-5-(4-piperidin-1-ylmethyl-phenyl)-[3,4]bipyridinyl-3′-ylamine | 0.19 mmol, 93 mg | BrC=1C(=C(C=NC1Cl)N)C=1C(=NC=C(C1)C1=CC=C(C=C1)CN1CCCCC1)F | C22H21BrClFN4
reactant | vinyltributyl tin | 0.21 mmol, 63 μL | C(=C)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 0.59 mmol, 25 mg | [Cl-].[Li+]
solvent | 1,4-dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 11 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6′-Chloro-2-fluoro-5-(4-piperidin-1-ylmethyl-phenyl)-5′-vinyl-[3,4′]bipyridinyl-3′-ylamine | 77 mg, 82% | ClC1=C(C(=C(C=N1)N)C=1C(=NC=C(C1)C1=CC=C(C=C1)CN1CCCCC1)F)C=C | C24H24ClFN4
